**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Push-Pull Transformers 
* Matchcode:              WE-PPTI
* Library Type:           LTspice
* Version:                rev25a
* Created/modified by:    Ella      
* Date and Time:          2025-02-06
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************

.subckt	750317843		1  2  3  4  5  10  9  8  7  6		
.param RxLkg=636.37ohm					
.param Leakage=1.4uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	504.3uH	Rser=306mohm	
Lpri2	2a	3	504.3uH	Rser=306mohm	
Laux1	4	5	118.714uH	Rser=116mohm	
Lsec1	10	9	104.339uH	Rser=339mohm	
Lsec2	9	8	3.281uH	Rser=82mohm	
Lsec3	8	7	3.281uH	Rser=82mohm	
Lsec4	7	6	3.281uH	Rser=82mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2 Lsec3 Lsec4     1					
.param Cprm1=11.98pf					
.param Cprm2=11.98pf					
.param Rdmp1=229548.13ohm					
.param Rdmp2=229548.13ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg9	5	0	20meg		
Rg11	10	0	20meg		
Rg19	9	0	20meg		
Rg20	8	0	20meg		
Rg21	7	0	20meg		
Rg22	6	0	20meg		
.ends					
