**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Push-Pull Transformers 
* Matchcode:              WE-PPTI
* Library Type:           LTspice
* Version:                rev24a
* Created/modified by:    Ella      
* Date and Time:          2024-01-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************

.subckt	750031160		3  2  1  4  5  6		
.param RxLkg=63.05ohm					
.param Leakage=0.28uh					
Rlkg	3	3a	{RxLkg/2}		
L_Lkg	3	3a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	3a	2	249.86uH	Rser=460mohm	
Lpri2	2a	1	249.86uH	Rser=460mohm	
Lsec1	4	5	1812.13uH	Rser=1200mohm	
Lsec2	5	6	1812.13uH	Rser=1200mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=98.6pf					
.param Cprm2=98.6pf					
.param Rdmp1=56297.34ohm					
.param Rdmp2=56297.34ohm					
Cpri1	3	2	{Cprm1}	Rser=10mohm	
Cpri2	2	1	{Cprm2}	Rser=10mohm	
Rdmp1	3	2	{Rdmp1}		
Rdmp2	2	1	{Rdmp2}		
Rg3	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	4	0	20meg		
Rg19	5	0	20meg		
Rg20	6	0	20meg		
.ends					
