**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Push-Pull Transformers 
* Matchcode:              WE-PPTI
* Library Type:           LTspice
* Version:                rev24a
* Created/modified by:    Ella      
* Date and Time:          2024-01-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************


.subckt	750314781		4  3  2  1  5  6  7  8		
.param RxLkg=848.95ohm					
.param Leakage=0.8uh					
Rlkg	4	4a	{RxLkg/2}		
L_Lkg	4	4a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	4a	3	39.6uH	Rser=43mohm	
Lpri2	2a	1	39.6uH	Rser=43mohm	
Lsec1	5	6	160uH	Rser=268mohm	
Lsec2	7	8	160uH	Rser=268mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=27.75pf					
.param Cprm2=27.75pf					
.param Rdmp1=42447.69ohm					
.param Rdmp2=42447.69ohm					
Cpri1	4	3	{Cprm1}	Rser=10mohm	
Cpri2	2	1	{Cprm2}	Rser=10mohm	
Rdmp1	4	3	{Rdmp1}		
Rdmp2	2	1	{Rdmp2}		
Rg3	4	0	20meg		
Rg4	2	0	20meg		
Rg7	3	0	20meg		
Rg8	1	0	20meg		
Rg11	5	0	20meg		
Rg12	7	0	20meg		
Rg19	6	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750315213		3  2  1  6  7  8		
.param RxLkg=904.69ohm					
.param Leakage=1.95uh					
Rlkg	3	3a	{RxLkg/2}		
L_Lkg	3	3a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	3a	2	139.775uH	Rser=186mohm	
Lpri2	2a	1	139.775uH	Rser=188mohm	
Lsec1	6	7	140.75uH	Rser=275mohm	
Lsec2	7	8	140.75uH	Rser=279mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=41.26pf					
.param Cprm2=41.26pf					
.param Rdmp1=65300.13ohm					
.param Rdmp2=65300.13ohm					
Cpri1	3	2	{Cprm1}	Rser=10mohm	
Cpri2	2	1	{Cprm2}	Rser=10mohm	
Rdmp1	3	2	{Rdmp1}		
Rdmp2	2	1	{Rdmp2}		
Rg3	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends					

.subckt	750315214		3  2  1  6  7  8		
.param RxLkg=1550.11ohm					
.param Leakage=2.61uh					
Rlkg	3	3a	{RxLkg/2}		
L_Lkg	3	3a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	3a	2	187.195uH	Rser=124mohm	
Lpri2	2a	1	187.195uH	Rser=126mohm	
Lsec1	6	7	11.781uH	Rser=38mohm	
Lsec2	7	8	11.781uH	Rser=39mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=18.8pf					
.param Cprm2=18.8pf					
.param Rdmp1=111952.38ohm					
.param Rdmp2=111952.38ohm					
Cpri1	3	2	{Cprm1}	Rser=10mohm	
Cpri2	2	1	{Cprm2}	Rser=10mohm	
Rdmp1	3	2	{Rdmp1}		
Rdmp2	2	1	{Rdmp2}		
Rg3	3	0	20meg		
Rg7	2	0	20meg		
Rg8	1	0	20meg		
Rg11	6	0	20meg		
Rg19	7	0	20meg		
Rg20	8	0	20meg		
.ends		